US04238493
A solution of 2-(5-methyl-4-imidazolylmethylthio)ethylamine (0.51 g, 0.003 mol) and 2-methylthio-3-nitro-1,4,5,6-tetrahydropyridine (0.49 g, 0.003 mol) in ethanol (50 ml) was refluxed for 6 hours. The mixture was cooled, and the solvent was removed in vacuo. The residue was dissolved in hot propan-2-ol and the product crystallised on cooling. Recrystallisation of the product from propan-2-ol/methanol gave 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-3-nitro-1,4,5,6-tetrahydropyridine (0.66 g, 82%) m.p. 205.5°-206.5°.

reactant | 2-(5-methyl-4-imidazolylmethylthio)ethylamine | 0.003 mol, 0.51 g | CC1=C(N=CN1)CSCCN | C7H13N3S
reactant | 2-methylthio-3-nitro-1,4,5,6-tetrahydropyridine | 0.003 mol, 0.49 g | CSC=1NCCCC1[N+](=O)[O-] | C6H10N2O2S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-3-nitro-1,4,5,6-tetrahydropyridine | 0.66 g, 82% | CC1=C(N=CN1)CSCCNC=1NCCCC1[N+](=O)[O-] | C12H19N5O2S
